US07250410B2
1-ethyl-7,8-dimethoxy-5-[3-(phenylethynyl)phenyl]-1,3-dihydro-2H-1,4-benzodiazepin-2-one, IIbw.
By replacing 5-(4-bromophenyl)-1-ethyl-7,8-dimethoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one (IIbl) in example IIbn by 5-(3-bromophenyl)-1-ethyl-7,8-dimethoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one (IIbm), and [(prop-2-ynyloxy)methyl]benzene by phenylacetylene, and proceeding in the same manner, the abovenamed product is obtained. Yield: 33%. M: 100–102° C. 1H-NMR (CDCl3, 200 MHz): d 1.13 (s, 3H, CH3), 3.51–3.82 (m, 5H, 1H NCH2+1H CH2+OCH3), 3.97 (s, 3H, OCH3), 4.24–4.34 (m, 1H, NCH2), 4.74–4.80 (m, 1H, CH2), 6.66 (s, 1H Ar), 6.84 (s, 1H Ar), 7.26–7.83 (m, 9H Ar).

reactant | 5-(3-bromophenyl)-1-ethyl-7,8-dimethoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one | BrC=1C=C(C=CC1)C1=NCC(N(C2=C1C=C(C(=C2)OC)OC)CC)=O | C19H19BrN2O3
reactant | [(prop-2-ynyloxy)methyl]benzene | C(C#C)OCC1=CC=CC=C1 | C10H10O
reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
product | 1-ethyl-7,8-dimethoxy-5-[3-(phenylethynyl)phenyl]-1,3-dihydro-2H-1,4-benzodiazepin-2-one | Yield: 33% | C(C)N1C(CN=C(C2=C1C=C(C(=C2)OC)OC)C2=CC(=CC=C2)C#CC2=CC=CC=C2)=O | C27H24N2O3
